US06238486B1
A 20.2% polymer solids, 60/30/10 mole percent acrylamide/dimethylaminoethyl acrylate methyl chloride quaternary salt/diallyldimethyl ammonium chloride dispersion polymer was synthesized in a method similar to that described in Example 1. To the reactor setup described above was added 22.4 g of acrylamide (48.9% aqueous solution), 18.6 g of dimethylaminoethyl acrylate methyl chloride quaternary salt (80% aqueous solution), 44.3 g of diallyldimethyl ammonium chloride (62.4% aqueous solution), 60.0 g of a homopolymer of dimethylaminoethyl acrylate methyl chloride quaternary (15% aqueous solution, available from Nalco Chemical Company), 45 g of a homopolymer of diallyldimethyl ammonium chloride (15% aqueous solution), 12.0 g of polyethylene glycol (mw. 400), 0.1 g of ethylenediaminetetraacetic acid, tetra sodium salt, 190.0 g of ammonium sulfate, 50.0 g sodium sulfate, and 300.0 g of deionized water.

reactant | acrylamide | 22.4 g | C(C=C)(=O)N | C3H5NO
reactant | dimethylaminoethyl acrylate methyl chloride | 18.6 g | CCl.C(C=C)(=O)OCCN(C)C
reactant | ethylenediaminetetraacetic acid | 0.1 g | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | tetra sodium | C1C=CN(C=C1C(=O)N)C2C(C(C(O2)COP(=O)([O-])OP(=O)([O-])OCC3C(C(C(O3)N4C=NC5=C4N=CN=C5N)OP(=O)([O-])[O-])O)O)O.[Na+].[Na+].[Na+].[Na+]
reactant | ammonium sulfate | 190.0 g | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | sodium sulfate | 50.0 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
catalyst | diallyldimethyl ammonium chloride | [Cl-].C(C=C)[N+](C)(C)CC=C
catalyst | diallyldimethyl ammonium chloride | 44.3 g | [Cl-].C(C=C)[N+](C)(C)CC=C
solvent | water | 300.0 g | O | H2O
product | acrylamide dimethylaminoethyl acrylate methyl chloride | C(C=C)(=O)N.CCl.C(C=C)(=O)OCCN(C)C | InChI=1S/C7H13NO2.C3H5NO.CH3Cl/c1-4-7(9)10-6-5-8(2)3;1-2-3(4)5;1-2/h4H,1,5-6H2,2-3H3;2H,1H2,(H2,4,5);1H3
